US04399134
2-Nitro-4-fluoro-5-(4-hydroxy-1-piperidyl)aniline (20 g) was added to 60% sulfuric acid prepared from 40 ml of concentrated sulfuric acid and 48 ml of water, and 13.2 g of sodium m-nitrobenzenesulfonate was added to the mixture. The resulting mixture was dissolved by heating to 110° C. and 6.6 g of crotonaldehyde was added dropwise to the solution in 10 minutes. After 5 minutes, the reaction mixture was poured in 30 ml of ice water to give 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-nitroquinaldine, to which without isolation was added a solution of 71 g of stannous chloride dihydrate in 140 ml of concentrated hydrochloric acid and the mixture was stirred for 30 minutes. After treatment with activated carbon the reaction mixture was rendered alkaline with an aqueous sodium hydroxide solution to form precipitations which were extracted with dichloromethane. After distilling off the solvent isopropanol was added to the residue to dissolve it. Concentrated hydrochloric acid was added to the solution to form hydrochloric acid salt which was well washed with acetone and dissolved in water. The aqueous solution was rendered alkaline with an aqueous sodium hydroxide solution to precipitate solids which were collected by filtration to give 8.5 g of 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-aminoquinaldine.

reactant | 2-Nitro-4-fluoro-5-(4-hydroxy-1-piperidyl)aniline | 20 g | [N+](=O)([O-])C1=C(N)C=C(C(=C1)F)N1CCC(CC1)O | C11H14FN3O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium m-nitrobenzenesulfonate | 13.2 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | crotonaldehyde | 6.6 g | C(\C=C\C)=O | C4H6O
solvent | water | 48 ml | O | H2O
product | 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-nitroquinaldine | OC1CCN(CC1)C1=C2C=CC(=NC2=C(C=C1F)[N+](=O)[O-])C | C15H16FN3O3
